US06911445B2
N-[(cis)-4-(5-fluoro-1H-indol-3-yl)cyclohexyl-N-{[(8S)-2-methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl}amine
Toluene-4-sulfonic acid (8R)-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthlen-8-ylmethyl ester (0.52 g, 1.39 mmole) and cis-4-(5-fluoro-1H-indol-3-yl)-cyclohexylamine (0.60 g, 2.6 mmole) were combined in 10 mL of anhydrous DMSO under nitrogen. This solution was heated to 80° C. under nitrogen for 5 hours. After cooling to room temperature, the reaction was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuo. Flash chromatography on silica gel (CH2Cl2 then 1% MeOH/CH2Cl2) afforded 0.26 g of the title compound as a light yellow solid: m.p. 80-82° C.; MS (ESI) m/z 436 (M+H)+.

reactant | Toluene-4-sulfonic acid (8R)-2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthlen-8-ylmethyl ester | 1.39 mmole, 0.52 g | CC1=NC=2C(=C3O[C@H](COC3=CC2)COS(=O)(=O)C2=CC=C(C=C2)C)O1 | C18H17NO6S
reactant | cis-4-(5-fluoro-1H-indol-3-yl)-cyclohexylamine | 2.6 mmole, 0.60 g | FC=1C=C2C(=CNC2=CC1)[C@H]1CC[C@H](CC1)N | C14H17FN2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (cis)-4-(5-fluoro-1H-indol-3-yl)cyclohexyl-N-{[(8S)-2-methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-yl]methyl}amine | 0.26 g | FC=1C=C2C(=CNC2=CC1)[C@H]1CC[C@H](CC1)NC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C25H26FN3O3
